US07795444B2
Preparation of 1-(S)-(4-ethylthiazol-2-yl)-2-(4-nitrophenyl)ethyl amine hydrobromide (3):
A mixture of [2-(4-nitrophenyl)-1-(S)-thiocarbamoylethyl]-carbamic acid tert-butyl ester, 2, (10 g, 30.7 mmol) and 1-bromo-2-butanone (90%, 3.8 mL, 33.8 mmol) in CH3CN (500 mL) is refluxed for 18 hours. The reaction mixture is cooled to room temperature and diethyl ether is added to the solution and the precipitate which forms is removed by filtration to afford 7.47 g of the desired product. ESI+ MS 278 (M+1).

reactant | [2-(4-nitrophenyl)-1-(S)-thiocarbamoylethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](CC1=CC=C(C=C1)[N+](=O)[O-])C(N)=S)=O | C14H19N3O4S
reactant | 1-bromo-2-butanone | 33.8 mmol, 3.8 mL | BrCC(CC)=O | C4H7BrO
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | CH3CN | 500 mL | CC#N | C2H3N
product | 1-(S)-(4-ethylthiazol-2-yl)-2-(4-nitrophenyl)ethyl amine hydrobromide | 7.47 g | Br.C(C)C=1N=C(SC1)[C@H](CC1=CC=C(C=C1)[N+](=O)[O-])N | InChI=1S/C13H15N3O2S.BrH/c1-2-10-8-19-13(15-10)12(14)7-9-3-5-11(6-4-9)16(17)18;/h3-6,8,12H,2,7,14H2,1H3;1H/t12-;/m0./s1
